US08664220B2
Step 3: 1-(4′-{3-Methyl-4-[6-(3-trifluoromethyl-phenyl)-pyridin-2-ylamino]-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester
Prepared according to the procedure described in Example 68, Step 2, using 1-[4′-(4-amino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester and 2-bromo-6-(3-trifluoromethyl-phenyl)-pyridine.

reactant | 1-[4′-(4-amino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)N | C22H22N2O3
reactant | 2-bromo-6-(3-trifluoromethyl-phenyl)-pyridine | BrC1=NC(=CC=C1)C1=CC(=CC=C1)C(F)(F)F | C12H7BrF3N
product | 1-(4′-{3-Methyl-4-[6-(3-trifluoromethyl-phenyl)-pyridin-2-ylamino]-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC1=NC(=CC=C1)C1=CC(=CC=C1)C(F)(F)F | C34H28F3N3O3
